US06395733B1
(3-Ethynyl-phenyl)-(7-methyl-pyrrolo[2,3-d]pyrimidin-4-yl)-amine Hydrochloride
Following the procedure described in Example 1, the title compound was prepared from 4-chloro-7H-pyrrolo[2,3-d]pyrimidine and methyl iodide, and m-aminophenyl acetylene (75%). TS-MS: 249 (MH+); anal. RP18-HPLC RT: min.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | methyl iodide | CI | CH3I
reactant | m-aminophenyl acetylene | NC=1C=C(C=CC1)C#C | C8H7N
product | (3-Ethynyl-phenyl)-(7-methyl-pyrrolo[2,3-d]pyrimidin-4-yl)-amine Hydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC=1C2=C(N=CN1)N(C=C2)C | InChI=1S/C15H12N4.ClH/c1-3-11-5-4-6-12(9-11)18-14-13-7-8-19(2)15(13)17-10-16-14;/h1,4-10H,2H3,(H,16,17,18);1H
